Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
azithromycin
 
Attending: ___.
 
Chief Complaint:
Depressed mood with suicidal ideation
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ y/o woman with history of
depression who presented to the ED at instruction of her
therapist for SI with plan to overdose on Tylenol. The patient
states that she was in her usual state of mental health until 
two
weeks ago, at which time she began having worsening depressive
symptoms including feelings of hopelessness, low energy, guilt,
and most recently suicidal ideation. She does not cite any
psychosocial stressors which may have brought about this 
episode.
Patient reports that she was started on Effexor two weeks ago,
and she believes that this may have incited her worsening mood
symptoms. She denies HI and AVH. 
     Patient does have a history of non-suicidal self injury,
including cutting the skin on her arms and abdomen. Pt reports
thoughts of wanting to self-harm chronically "all the time". She
has agreed to alert staff if these thoughts arise on the unit.
     This patient also has Tourette's syndrome, and takes
pimozide at home daily. She reports recurring tics if she misses
a dose of this medicine.
On interview she endorses longstanding intermittent
suicidal thoughts which have become very intense this past week
and lasting all day. She is not able to identify a particular
stressor but does say that at the lab that she works at she has
been feeling inadequate and generally feels like she can't
contribute anything to the world. She has been unable to
concentrate in lab and has been feeling hopeless and empty. Also
endorses sleep disturbance and decreased appetite. She has had
constant thoughts of imagining herself dying which she feels she
can't control. Yesterday morning she bought a bottle of APAP and
was sitting in her room at night holding the bottle and looking
at it and felt that she may have overdosed on it if her roommate
did not come home and take it away from her. Today she saw her
therapist for their regular appointment and was told to proceed
to the ED for evaluation.
     She has a history of cutting her flank with a razor since
age ___ which helps her "feel alive." She last cut 1 week ago and
has never cut with the intention to die, has never required
sutures. She also has a diagnosis of Tourette's which she got at
age ___ and has motor and vocal tics when not taking her
medication(pimozide).

 
Past Medical History:
PMH: Tourette's Syndrome

Past psychiatric history:
No prior psychiatric hospitalizations
Current treaters and treatment: ___, therapist, Dr. 
___
Medication: Trialed on Effexor; did not tolerate well
Self-injury: h/o cutting, last 1 week ago
Harm to others: denies
Access to weapons: denies
 
Social History:
___
Family History:
Family Psychiatric History: Father with panic attacks; no other 
diagnosed psychiatric conditions in ___ family
 
Physical Exam:
 PHYSICAL EXAMINATION:
 VS: T:98 BP:115/81 HR:79 RR:18
 General: NAD
 HEENT: PERRL, MMM, OP clear.
 Neck: Supple. No adenopathy or thyromegaly.
 Back: No significant deformity, no focal tenderness
 Lungs: CTAB; no crackles or wheezes.
 CV: RRR; no m/r/g
 Abdomen: Soft, NT, ND.
 Extremities: +healed cuts to the left forearm in parallel 
linear
configuration, No clubbing, cyanosis, or edema.
 Skin: Warm and dry, no rash or significant lesions.
NEUROLOGICAL EXAM:
CN: PERRL, EOMI , sensation intact and symmetric V1/V2/V3, smile
symmetric,  shoulder shrug intact,  tongue  midline, no atrophy
Motor: strength ___ in all four ext b/l
*Deep tendon Reflexes:
       Patellar: 2+ bilaterally
Sensation: to ___ touch intact in all four ext b/l
Coordination: not assessed
Gait/Romberg: gait wnl, Romberg not assessed

MENTAL STATUS EXAM:
-Appearance: Fairly groomed woman who appears stated age, 
sitting
up in chair, in no acute distress
-Behavior: Calm and cooperative with interview, good eye 
contact,
answers questions appropriately. 
-Mood and Affect: "tired", affect congruent, withdrawn, normal
range of affect
-Thought process: linear goal-directed
-Thought Content: +SI with no plan, denies HI/AVH, not 
responding
to internal stimuli
-Judgment and Insight: fair/poor
  COGNITIVE EXAM:
    *Attention, *orientation, and executive function: fully
oriented x4, accurately states moyb
    * Memory (apple, table, ___: ___ registration, ___ recall
    *Fund of knowledge: able to recall the last three ___
presidents and current events
    Calculations: quarters in $2.25 = "9"
    Abstraction: apples to oranges states "fruit"
    *Speech: normal amount, soft, quiet, rate/rhythm normal
    *Language: fluent, ___

 
Pertinent Results:
___ 05:25PM   GLUCOSE-92 UREA N-11 CREAT-0.7 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-23 ANION GAP-20
___ 05:25PM   estGFR-Using this
___ 05:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  UCG-NEGATIVE
___ 05:25PM URINE  UHOLD-HOLD
___ 05:25PM URINE  GR HOLD-HOLD
___ 05:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:25PM   WBC-6.2 RBC-4.40 HGB-13.5 HCT-40.0 MCV-91 
MCH-30.7 MCHC-33.8 RDW-12.0 RDWSD-40.1
___ 05:25PM   NEUTS-69.3 ___ MONOS-4.9* EOS-1.3 
BASOS-0.3 IM ___ AbsNeut-4.28 AbsLymp-1.46 AbsMono-0.30 
AbsEos-0.08 AbsBaso-0.02
___ 05:25PM   PLT COUNT-308
 
Brief Hospital Course:
This patient is a ___ year old woman with history of
depression and Tourette's syndrome who presents with two weeks 
of
worsening depressive symptoms and suicidal ideation with a plan 
to overdose on
Tylenol. While she cannot identify any social stressors which 
may
have brought on these symptoms, she believes that the initiation
of Effexor may have caused an acute worsening of her depressive
symptoms. Her history of disturbed sleep, low energy, depressed
mood, hopelessness, and suicidal ideation over the past two 
weeks
are consistent with a major depressive episode. On interview, 
she
is notably withdrawn, but has a normal range of affect and is
able to express some insight into her illness. Patient reports
chronic urge to commit non-suicidal self injury. Given the 
___ presentation, the differential diagnosis includes 
persistent depressive disorder vs bipolar disorder type II with 
PTSD and cluster B traits lower on the differential.
Considering lack of benefit from antidepressant, hx of mood sx's 
with early onset (since childhood), multiple episodes of 
depression (some years upto ___ episodes/year), and short 
duration (typically just 7 days), Bipolar disorder was placed on 
top of diff diagnosis list.

Collateral was obtained from ___ therapist ___ and 
___ psychiatrist ___. 

#Legal/safety: Patient was admitted to the inpatient psychiatric 
unit due to concern for self harm and suicidal ideation after 
being ___ by her therapist. Due to ___ history of 
cutting, patient was placed on red sharps. She was placed on 15 
minute checks and remained on good behavioral control during her 
stay. She was seen interacting in the milieu and engaging with 
her treatment actively by asking questions and reading up on her 
possible diagnoses. She was advanced to ___ due to 
decreased risk of self harm while on unit. 

#Depression with suicidal ideation: Patient presented to the 
inpatient unit with suicidal ideation with plan. She planned to 
overdose on Tylenol and bought a bottle of pills. This is the 
first episode that patient had acted on her plan. Once on the 
unit, patient did not endorse any further suicidal ideation or 
desire for self harm and had a brightened affect when discussing 
her lab work. She appears future-oriented, motivated with strong 
social supports in the form of her roommate and friends. 
___ Effexor was discontinued due to worsening of mood and 
SI while on Effexor. She was started on 25mg of lamictal on 
___ for mood stabilization with plan to increase dose to 
50mg after two weeks. Patient should follow up with her 
outpatient psychiatrist and therapist for continued management 
of her depression. Ms. ___ expressed interest in learning about 
bipolar disorder. In fact, she did some reading. She recognized 
episodes when she slept less and didn't feel tired.

#Tourette's Syndrome: Patient was diagnosed at age ___ and has 
taken pimozide 4mg at bedtime daily since then. She notes that 
if she does not take her medication, she develops motor and 
vocal tics. Patient brought in her home pimozide and continued 
taking it while on the unit. Patient should follow up with her 
outpatient neurologist for continued management of her 
Tourette's syndrome.  

Risk assessment: This ___ risk factors for self harm 
include chronic
mental illness, her history of self harm behavior, and recent SI
with a specific plan. Protective factors include future-oriented
thinking and willingness to seek treatment and follow
recommendations of providers. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY mood stabilization 
please take one 25mg tab once daily  
RX *lamotrigine 25 mg 1 tablet(s) by mouth once daily Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
persistent depressive disorder vs bipolar disorder NOS

 
Discharge Condition:
VS T 97.7 BP 99/72 HR 99 RR 16 SpO2 100% on room air
Neuropsychiatric: 
station and gait: normal gait and posture
tone and strength: all extremities 
Appearance: well-groomed with hair with highlights, wearing
black plastic-rim glasses, black shirt with heart necklace,
jeans, socks and black shoes
Behavior: cooperative, reactive, smiling appropriately and
engaged
Mood and Affect: 'I'm doing good.'; congruent with mood,
reactive, appropriate range of affect
Thought process: linear, logical, goal and future-oriented
Thought Content: denies any suicidal ideation or thoughts of
self harm
Judgment and Insight: good/good
Speech: normal rate, rhythm, prosody, volume
Language: fluent, no paraphasic errors noted

Patient is able to contract for safety. Briefly, patient 
describes if she experiences low mood and suicidal ideation, she 
will engage in distraction techniques, including going outside, 
writing in her journal or working on her research. If those 
methods fail, she states that she will contact a friend or 
roommate and discuss how she is feeling with them. If she 
continues to feel poorly, she states that she will reach out to 
her therapist and/or psychiatrist. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___